US09238639B2
(4,7-Dichloro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(4,7-dichloro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (124.5 mg), THF (dry) (2.0 mL), and MeOH (2.0 mL) was added 1N NaOH (0.804 mL) at room temperature. The mixture was stirred at room temperature for 5 h. The mixture was neutralized with 1N HCl and concentrated in vacuo. The precipitate was collected by filtration to give a solid. The solid was crystallized from EtOH-hexane to give the title compound (96.6 mg).

reactant | methyl(4,7-dichloro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 124.5 mg | COC(CC1=CSC2=C1C(=CC(=C2Cl)OCC=2C(=NC(=CC2)C(F)(F)F)C)Cl)=O | C19H14Cl2F3NO3S
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 0.804 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2.0 mL | CO | CH4O
product | (4,7-Dichloro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 96.6 mg | ClC1=CC(=C(C2=C1C(=CS2)CC(=O)O)Cl)OCC=2C(=NC(=CC2)C(F)(F)F)C | C18H12Cl2F3NO3S
